US04822801
2-Ethyl-7-benzyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione.
A suspension of sodium hydride (2.20 g of 60% oil suspension (0.055 mole) washed with toluene) in 50 ml N,N-dimethylformamide was treated gradually with a solution of 10.0 g (0.051 mole) 2-ethyl-2,7diazaspiro[4.4]nonane-1,3,8-trione in 100 ml N,N-dimethylformamide. After stirring 15 minutes, there was added dropwise 6.4 ml (0.055 mole) benzyl chloride and the mixture was stirred overnight, concentrated in vacuo and shaken with water-methylene chloride. The organic layers were dried, evaporated, and the product crystallized from toluene-hexane to afford 11.1 g of the title compound, mp 125°-126.5° C.

reactant | sodium hydride | 0.055 mole, 2.20 g | [H-].[Na+]
reactant | 2-ethyl-2,7diazaspiro[4.4]nonane-1,3,8-trione | 0.051 mole, 10.0 g | C(C)N1C(C2(CC1=O)CNC(C2)=O)=O | C9H12N2O3
reactant | benzyl chloride | 0.055 mole, 6.4 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Ethyl-7-benzyl-2,7-diazaspiro[4.4]nonane-1,3,8-trione | 11.1 g | C(C)N1C(C2(CC1=O)CN(C(C2)=O)CC2=CC=CC=C2)=O | C16H18N2O3
